US04304728
Acetoxymethyl 3-bromo-4-oxo-6-phenyl-4H-pyran-2-carboxylate
Chloromethyl acetate (2.2 ml) was added to a stirred solution of 3-bromo-4-oxo-6-phenyl-4H-pyran-2-carboxylic acid (5.9 g) and triethylamine (2.9 ml) in dry DMF (40 ml). The solution was heated at 70°-80° C. for 3 hours, then poured on to ice-water and extracted with ethyl acetate. The extract was washed with sodium bicarbonate solution, dried and evaporated, and the residue was crystallised from ethanol-water. The crude product was purified by chromatography on silica-gel and recrystallisation from ethyl acetate-petroleum ether 60°-80° C. gave the title product as white needles (mp 121° C.).

reactant | Chloromethyl acetate | 2.2 ml | C(C)(=O)OCCl | C3H5ClO2
reactant | 3-bromo-4-oxo-6-phenyl-4H-pyran-2-carboxylic acid | 5.9 g | BrC1=C(OC(=CC1=O)C1=CC=CC=C1)C(=O)O | C12H7BrO4
reactant | triethylamine | 2.9 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | Acetoxymethyl 3-bromo-4-oxo-6-phenyl-4H-pyran-2-carboxylate | BrC1=C(OC(=CC1=O)C1=CC=CC=C1)C(=O)OCOC(C)=O | C15H11BrO6
